US07037935B2
In an analogous manner to that described in Example 1a), 2,5-difluoro-4-(3-fluoro-benzyloxy)-phenylamine was reacted with itaconic acid to yield (RS)-1-[2,5-difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid (34.5% of theory) as a grey solid; MS: m/e=363 (M−H)+.

reactant | 2,5-difluoro-4-(3-fluoro-benzyloxy)-phenylamine | FC1=C(C=C(C(=C1)OCC1=CC(=CC=C1)F)F)N | C13H10F3NO
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-[2,5-difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 34.5% | FC1=C(C=C(C(=C1)OCC1=CC(=CC=C1)F)F)N1CC(CC1=O)C(=O)O | C18H14F3NO4
